* Z:\mnt\design.r\spice\examples\1440.asc
V1 Vcc 0 PWL(0 0 1m 3.3)
XU1 N002 N001 Vcc 0 OUT 0 N001 N001 LTC1440
R1 N002 0 1.13Meg
R2 Vcc N002 1.65Meg
.tran 1m
* µPower 2.9V Vcc Threshold Detector
.lib LTC.lib
.backanno
.end
